US04644063
(1RS,2SR)-4-methyl-1-phenyl-2-(3-piperidino-propylamino)pentane-1-ol dihydrochloride
A mixture of (1RS,2SR)-2-amino-4-methyl-1-phenylpentane-1-ol (40.6 g, 210 mmol) and 1-(3-chloropropyl)piperidine (34.0 g, 210 mmol) was melted together at 50° to 70° C. in a nitrogen atmosphere. The mixture was then heated on an oil bath of 110° to 120° C. for 3 hours. After being cooled, the reaction mixture was dissolved with heating in ethanol (750 ml), followed by addition of concentrated hydrochloric acid (17 ml). The mixture was cooled and precipitated crystals were collected by filtration. The crystals were agian suspended in ethanol (1,200 ml) and heated under reflux for one hour. The mixture was cooled and the resulting crystals were collected by filtration, washed and then dried to obtain 58.8 g of the intended compound as white crystals [yield: 72%, m.p.: 268°-270° C. (decomposed)].

reactant | (1RS,2SR)-2-amino-4-methyl-1-phenylpentane-1-ol | 210 mmol, 40.6 g | NC(C(O)C1=CC=CC=C1)CC(C)C | C12H19NO
reactant | 1-(3-chloropropyl)piperidine | 210 mmol, 34.0 g | ClCCCN1CCCCC1 | C8H16ClN
reactant | hydrochloric acid | 17 ml | Cl | ClH
solvent | ethanol | 750 ml | C(C)O | C2H6O
product | (1RS,2SR)-4-methyl-1-phenyl-2-(3-piperidino-propylamino)pentane-1-ol dihydrochloride | 58.8 g, yield: 72% | Cl.Cl.CC(CC(C(O)C1=CC=CC=C1)NCCCN1CCCCC1)C | InChI=1S/C20H34N2O.2ClH/c1-17(2)16-19(20(23)18-10-5-3-6-11-18)21-12-9-15-22-13-7-4-8-14-22;;/h3,5-6,10-11,17,19-21,23H,4,7-9,12-16H2,1-2H3;2*1H
